US07514566B2
(S)-tert-Butyl-3-(4-chlorophenyl)-1-(5-(3,4-difluorophenyl)-4-hydroxythiazol-2-ylamino)propan-2-ylcarbamate
A mixture of (S)-tert-butyl 3-(4-chlorophenyl)-1-thioureidopropan-2-ylcarbamate (0.585 g, 1.70 mmol) and ethyl 2-bromo-2-(3,4-difluorophenyl)acetate (0.500 g, 1.79 mmol) in ethyl alcohol (2 mL) and diisopropylethylamine (0.3 mL) in a sealed vial (Biotage microwave vial, 5 mL) with a magnetic stirring bar was heated in a microwave oven (Initiator, Biotage) at 120° C. for 15 minutes. After cooling to ambient temperature, the volatiles were removed in vacuum. The residue was partitioned between EtOAc and water. The combined organic portions were washed with brine. The crude product was purified by flash column chromatography (20% of EtOAc in hexanes for 5 minutes, 20% to 100% of EtOAc in hexanes over 23 minutes). The product was obtained as a white solid, 0.201 g, 24%. 1H NMR (300 MHz, CD3OD) δ 1.22-1.39 (m, 9H), 2.52-2.97 (m, 2H), 3.35-3.60 (m, 1H), 3.64-3.85 (m, 1H), 3.92-4.24 (m, 1H), 7.11-7.46 (m, 7H). LCMS (API-ES): 496.1/498.1 (M++H), chloro pattern.

reactant | (S)-tert-butyl 3-(4-chlorophenyl)-1-thioureidopropan-2-ylcarbamate | 1.70 mmol, 0.585 g | ClC1=CC=C(C=C1)C[C@@H](CNC(=S)N)NC(OC(C)(C)C)=O | C15H22ClN3O2S
reactant | ethyl 2-bromo-2-(3,4-difluorophenyl)acetate | 1.79 mmol, 0.500 g | BrC(C(=O)OCC)C1=CC(=C(C=C1)F)F | C10H9BrF2O2
solvent | ethyl alcohol | 2 mL | C(C)O | C2H6O
solvent | diisopropylethylamine | 0.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | (S)-tert-Butyl-3-(4-chlorophenyl)-1-(5-(3,4-difluorophenyl)-4-hydroxythiazol-2-ylamino)propan-2-ylcarbamate | C(C)(C)(C)OC(N[C@H](CNC=1SC(=C(N1)O)C1=CC(=C(C=C1)F)F)CC1=CC=C(C=C1)Cl)=O | C23H24ClF2N3O3S
